US08975256B2
7-(5-Fluoro-2-methoxyphenyl)-8-(5-methylthiophen-2-ylcarbonyloxymethyl)-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one (Compound No. 2-1)
8-Chloromethyl-7-(5-fluoro-2-methoxyphenyl)-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 4-2, 50.9 mg, 0.14 mmol), 5-methyl-2-thiophenecarboxylic acid (62.5 mg, 0.44 mmol), and potassium carbonate (79.9 mg, 0.58 mmol) were suspended in anhydrous. N,N-dimethylformamide (1.5 mL) and stirred at 80° C. for 4.5 hours. Ethyl acetate (30 mL) and water (30 mL) were added to the reaction mixture and partitioned. The organic layer was washed with water (30 mL) and saturated brine (30 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled compound (55.0 mg) as a colorless solid. (Yield 85%)

reactant | 8-Chloromethyl-7-(5-fluoro-2-methoxyphenyl)-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one | ClCC=1C(=CC=C2NC(C(NC12)=O)(C)C)C1=C(C=CC(=C1)F)OC | C18H18ClFN2O2
reactant | 5-methyl-2-thiophenecarboxylic acid | 0.44 mmol, 62.5 mg | CC1=CC=C(S1)C(=O)O | C6H6O2S
reactant | potassium carbonate | 0.58 mmol, 79.9 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | water | 30 mL | O | H2O
solvent | Ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 7-(5-Fluoro-2-methoxyphenyl)-8-(5-methylthiophen-2-ylcarbonyloxymethyl)-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one | 55.0 mg, Yield 85% | FC=1C=CC(=C(C1)C1=CC=C2NC(C(NC2=C1COC(=O)C=1SC(=CC1)C)=O)(C)C)OC | C24H23FN2O4S
